US06762300B2
1) Synthesis of 5-(4-tert-butoxycarbonylpiperazin-1-yl)benzofuran-2-carboxamide
1.04 g of 5-(4-tert-butoxycarbonylpiperazin-1-yl)-2-hydroxybenzaldehyde are added at 20° under nitrogen with stirring to 10 ml of NMP, and 0.5 g of potassium carbonate and 0.4 ml of ethyl bromoacetate are added to the solution. The mixture is stirred at 120° for 5 hours and cooled to 25°. 0.4 ml of formamide is then added to the mixture, and stirring is continued for 30 minutes. 1.9 ml of sodium methoxide (30% solution in methanol) are then added over the course of 15 minutes without cooling, and stirring is continued for a further hour at 25-30°. 30 ml of water and 30 ml of ethyl acetate are added to the batch, the phases are separated, and the aqueous phase is extracted with 30 ml of ethyl acetate. The combined organic phases are washed with 30 ml of water, and the solvent is removed under reduced pressure (1.1 g of orange crystal slurry). After crystallization using 20 ml of toluene, 500 mg of pale-beige crystals remain. The mother liquor is evaporated, and the oil which remains is dissolved in 10 ml of toluene. After 3 hours at 0°, further pale-beige crystals form (identical with the first crystals; 70 mg). The total yield (0.57 g) is 49%, m.p. 202-204°; MS 345 (M+), 289 (100%), 272, 244, 215, 203.

reactant | 5-(4-tert-butoxycarbonylpiperazin-1-yl)-2-hydroxybenzaldehyde | 1.04 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC(=C(C=O)C1)O | C16H22N2O4
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.4 ml | BrCC(=O)OCC | C4H7BrO2
reactant | formamide | 0.4 ml | C(=O)N | CH3NO
reactant | sodium methoxide | 1.9 ml | C[O-].[Na+]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
product | 5-(4-tert-butoxycarbonylpiperazin-1-yl)benzofuran-2-carboxamide | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC2=C(C=C(O2)C(=O)N)C1 | C18H23N3O4
